US04057573
A solution of 12 g of 5-benzoyl-6-hydroxy-indane-1-carboxylic acid in 100 ml of n-butanol and 8 drops of concentrated sulphuric acid is boiled for 6 hours under reflux in an anhydrous atmosphere. It is then evaporated to a volume of approx. 20 ml in vacuo and the evaporation residue is partitioned between 3 times 100 ml of methylene chloride and 3 times 100 ml of water. The organic phases are dried over sodium sulphate and evaporated in vacuo. The evaporation residue, when crystallized from cold ether-petroluem ether, gives 5-benzoyl-6-hydroxy-indane-1-carboxylic acid n-butyl ester in the form of yellow platelets of melting point 43°-44° C.

reactant | 5-benzoyl-6-hydroxy-indane-1-carboxylic acid | 12 g | C(C1=CC=CC=C1)(=O)C=1C=C2CCC(C2=CC1O)C(=O)O | C17H14O4
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
catalyst | sulphuric acid | 8 drops | S(O)(O)(=O)=O | H2O4S
product | 5-benzoyl-6-hydroxy-indane-1-carboxylic acid n-butyl ester | C(CCC)OC(=O)C1CCC2=CC(=C(C=C12)O)C(C1=CC=CC=C1)=O | C21H22O4
